US04556742
4-Isopropenyl-3,7-dimethyl-6-octen-1-yn-3-ol (0.960 g; 5.10-3 mole) is kept at a temperature in the region of 40° C. and protected from light, in the presence of silver trifluoromethanesulphonate (1.285 g; 5.10-3 mole) in a mixture (50 cc) of tetrahydrofuran and water (3:1 by volume). After the reaction mixture has reacted for 20 hours and has been treated under the conditions of Example 1, the raw product obtained is hydrogenated in the presence of palladium on charcoal (5% in hexane). After chromatography on a silica column under reduced pressure with elution with a mixture of ether and petroleum-ether (3:7 by volume), 6,10-dimethylundecan-2-one (0.792 g) is obtained, having the following characteristics:

reactant | 4-Isopropenyl-3,7-dimethyl-6-octen-1-yn-3-ol | 5.10-3 mole, 0.960 g | C(=C)(C)C(C(C#C)(O)C)CC=C(C)C | C13H20O
reactant | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
reactant | water | O | H2O
catalyst | palladium on charcoal | [Pd] | Pd
catalyst | silver trifluoromethanesulphonate | 5.10-3 mole, 1.285 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | 6,10-dimethylundecan-2-one | 0.792 g | CC(CCCC(C)=O)CCCC(C)C | C13H26O
